US08937178B2
To a solution of N,2-dimethylbenzo[d]oxazol-6-amine (9.4 g, 58.0 mmol) in DCM (100 mL) was added EDC.HCl (26.6 g, 139 mmol), DMAP (0.354 g, 2.9 mmol) and bromoacetic acid (18.5 g, 133.0 mmol) at 0° C. under N2. The reaction mixture was stirred at rt overnight, then diluted with water (200 mL). The product was extracted with DCM (3×100 mL) and the organics were washed with brine, dried over Na2SO4 and concentrated to obtain 2-bromo-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (10.0 g, 61%), (MS: ESI +ve, 283.1 [M+H]); 1H NMR: (400 MHz, DMSO) δ: 2.59 (s, 3H), 3.23 (s, 3H), 4.04 (s, 2H), 6.76-6.74 (d, J=8.8, 1H), 7.38-7.30 (dd, J=8.8, 1H), 7.73-7.71 (d, J=8, 1H).

reactant | N,2-dimethylbenzo[d]oxazol-6-amine | 58.0 mmol, 9.4 g | CNC1=CC2=C(N=C(O2)C)C=C1 | C9H10N2O
reactant | EDC.HCl | 139 mmol, 26.6 g | CCN=C=NCCCN(C)C.Cl
reactant | bromoacetic acid | 133.0 mmol, 18.5 g | BrCC(=O)O | C2H3BrO2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.9 mmol, 0.354 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 200 mL | O | H2O
product | 2-bromo-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 10.0 g, 61% | BrCC(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C | C11H11BrN2O2
